US06436915B1
Synthesis of 3,5-Diamino-4-[(benzo[1,3]dioxol-5-yl)hydrazono]pyrazole
This compound was prepared using 107 mg (0.5 mmol) of 2-(benzo[1,3]dioxol-5-yl-hydrazono)malononitrile, which was derived from 3,4-methylenedioxyaniline (137 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube approximately 10 min after the addition of hydrazine hydrate. The resulting black solid was isolated by filtration, dissolved in acetone, and hexanes was added to precipitate a small amount of black solid. The solid was removed by filtration and the filtrate was concentrated to yield 1.0 mg (1% yield) of the title compound as a black solid. 1H NMR (200 MHz, d6 DMSO) δ: 6.0 (brs, 6H), 6.92 (d, 1H), 7.18 (d, 1H), 7.38 (s, 1H), 10.60 (brs, 1H).

reactant | 2-(benzo[1,3]dioxol-5-yl-hydrazono)malononitrile | 0.5 mmol, 107 mg | O1COC2=C1C=CC(=C2)NN=C(C#N)C#N | C10H6N4O2
reactant | 3,4-methylenedioxyaniline | 1.0 mmol, 137 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
solvent | acetone | CC(=O)C | C3H6O
product | 3,5-Diamino-4-[(benzo[1,3]dioxol-5-yl)hydrazono]pyrazole | 1.0 mg, 1% yield | NC1=NN=C(C1=NNC1=CC2=C(OCO2)C=C1)N | C10H10N6O2
